US05239083
4-{2-[3-[1-(4-methylbenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid (Compound 33)
425 mg of compound 33 was obtained in a similar manner to those described in the Examples 1 and 2 using 777 mg of ethyl 4-(2-aminophenoxy)butyrate and 531 mg of 3-[1-(4-methylbenzyl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 777 mg | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(4-methylbenzyl)indol-5-yl]isocrotonic acid | 531 mg | CC1=CC=C(CN2C=CC3=CC(=CC=C23)/C(=C/C(=O)O)/C)C=C1 | C20H19NO2
product | 4-{2-[3-[1-(4-methylbenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid | CC1=CC=C(CN2C=CC3=CC(=CC=C23)/C(=C/C(=O)NC2=C(OCCCC(=O)O)C=CC=C2)/C)C=C1 | C30H30N2O4
